US08748415B2
Preparation 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((4-carboxyphenethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
To the solution of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((4-(methoxycarbonyl)phenethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (5 mg) in dioxane (2 ml) and MeOH (2 ml), 3 mg of lithium hydroxide was added followed by 0.5 ml of water. The resulting clear solution was stirred at 50° C. for 12 h. The solvent was removed in vacuo and yellow solid was obtained. The crude material was purified by prep. HPLC to afford the title compound as a white solid (1.1 mg, 22.0%). LCMS: m/e 692.5 (MH+), 2.28 min (method 3). 1H NMR (400 MHz, MeOD) δ ppm 6.50 (d, J=8.3 Hz, 2H), 6.38 (d, J=8.3 Hz, 2H), 5.91 (d, J=8.3 Hz, 2H), 5.68 (d, J=8.3 Hz, 2H), 3.75-3.81 (m, 1H), 3.22 (s, 1H), 3.11 (s, 1H), 1.79-1.91 (m, 2H), 1.66-1.75 (m, 1H), 1.51-1.66 (m, 2H), 1.33 (s, 1H), 0.84-1.02 (m, 1H), 0.44-0.68 (m, 2H), 0.10-0.33 (m, 8H), 0.12-0.10 (m, 6H), 0.34-0.12 (m, 6H), 0.42-0.34 (m, 6H), 0.46 (s, 3H), 0.49 (s, 3H), 0.57 (s, 3H), 0.59 (s, 3H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((4-(methoxycarbonyl)phenethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 5 mg | COC(=O)C1=CC=C(CCNC[C@]23[C@@H]([C@H]4CC[C@@H]5[C@]6(CC=C(C([C@@H]6CC[C@]5([C@@]4(CC2)C)C)(C)C)C2=CC=C(C(=O)O)C=C2)C)[C@@H](CC3)C(=C)C)C=C1 | C47H63NO4
reactant | lithium hydroxide | 3 mg | [OH-].[Li+]
reactant | water | 0.5 ml | O | H2O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 2 ml | CO | CH4O
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((4-carboxyphenethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 1.1 mg, 22.0% | C(=O)(O)C1=CC=C(CCNC[C@]23[C@@H]([C@H]4CC[C@@H]5[C@]6(CC=C(C([C@@H]6CC[C@]5([C@@]4(CC2)C)C)(C)C)C2=CC=C(C(=O)O)C=C2)C)[C@@H](CC3)C(=C)C)C=C1 | C46H61NO4
